US04882434
Preparation of 5-pyrrolidinyl-4,5-dioxopentanoic acid
To a solution of 584 mg of 2-oxoglutaric acid in 10 ml of acetonitrile was added 824 mg of N,N'-dicyclohexylcarbodiimide (DCC), which was stirred for 10 min. at room temperature. Then 284 mg of pyrrolidine was added to the mixture and stirred for 10 minutes at room temperature. The precipitated crystals were filtered off and the fitrate after addition of ethyl acetate was extracted with an aqueous sodium hydrogen carbonate solution. The extract was adjusted to pH 3.0 by addition of 2N-hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain 412 mg of the title compound as colorless crystals.

reactant | 2-oxoglutaric acid | 584 mg | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | N,N'-dicyclohexylcarbodiimide | 824 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pyrrolidine | 284 mg | N1CCCC1 | C4H9N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-pyrrolidinyl-4,5-dioxopentanoic acid | 412 mg | N1(CCCC1)C(C(CCC(=O)O)=O)=O | C9H13NO4
